Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever, abdominal pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of HIV with CD4 <100, HIV VL 14K (___), h/o 
neurosyphilis who presents with fever and LLQ abdominal pain. 
Patient states that he came in "because my roommate was 
concerned about my walking and confusion." Per referral and 
report, patient had initially presented to his PCP on the day of 
admission for his abdominal pain and fevers where he was noted 
to be tachycardic to 140s. He denied N/V/D at the time; he was 
also complaining of shortness of breath and lightheadedness upon 
standing. He does report fevers started on the day prior to 
admission but did not take temperatures at home. Reports 
associated anorexia and poor po intake. Of note, pt reports not 
taking medications due to "housing difficulties" for several 
months. Denies sick contacts, recent travel.

Roommate ___ clarifies the rest of the history, stating that 
patient had been very tired in the last few weeks, worsening on 
___ when he slept approx. 20 hours. He had been sleeping in his 
bed with his pants half off, which roommate assumed was due to 
fatigue and being too tired to take his pants off entirely. 
Roommate also reports that patient has had difficulty urinating 
as well. On the day of admission, roommate was concerned about 
pt's confusion, as patient thought that it was ___ when it 
was ___ and was "wobbly" on his feet. He urged patient to 
come to ED. 

In the ED, initial vitals:  T 102 HR 133 BP 143/84 RR 18 100% RA
He had Tm 103.4
Labs were notable for Na+ 127, Cr 1.2, LFTs wnl, CBC notable for 
WBC ___ H/H 12.5/37.2 Plt 51, lactate 1.1 UA negative with <1 
WBC, no bacteria. 
He had noncontrast CT head which showed no acute intracranial 
process. 
CT abd/pelvis w contrast showed mild intrahepatic biliary 
dilatation and mild dilatation of CBD , no evidence for 
intra-abdominal abscess.
CXR showed no acute cardiopulmonary abnormality. 
EKG showed: sinus tachycardia with rate 130s, NA, NI 
He received 3L NS, zosyn 4.5g, vanc 1g, ceftriaxone 2g, 
fluconazole 200 mg IV, acyclovir 1g IV, Tylenol 1g po x1

On transfer, vitals were:  T 98.8 HR 111 138/77 RR 20 99% RA
On arrival to the MICU,  pt reports feeling "lowsy", c/o thirst, 
hunger, LLQ abdominal pain. He reports that the 

Review of systems:  
(+) Per HPI  
(-) Denies recent weight loss or gain. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies cough, shortness of 
breath, or wheezing. Denies chest pain, chest pressure, 
palpitations, or weakness. Denies nausea, vomiting, diarrhea, or 
changes in bowel habits. Denies dysuria, frequency, or urgency. 
Denies arthralgias or myalgias. Denies rashes or skin changes. 
 
Past Medical History:
HIV with AIDS: Fx ___, took Trizivir initially followed by 
TDF/Combivir- in ___ took Truvada/Reyataz/r switched to 
Darunavir/r, Truvada when he needed to be on a PPI for H. pylori 
and GERD
h/o DVT
H/o MRSA cellulitis
Neurosyphilis: x2- ___ and ___ / 2 treatment course- 
hospitalized at ___ and was followed until ___ 
MDD
eosinophilic esophagitis
HPV with HGSIL anus, LGSIL anorectal
herpes zoster
arthralgias
Allergic rhinitis
Thrombocytopenia

 
Social History:
___
Family History:
Mother - Living - CA (unclear type) 
Brother with prostate cancer, Small Cell Lung CA 
Father with throat cancer
Multiple family members with fibromyalgia
 
Physical Exam:
Admission exam:
Vitals: T 99.5  BP: 137/86 P: 122 R: 18 O2: 99% RA  
GENERAL: Alert, oriented x3, uncomfortable appearing
HEENT: Sclera anicteric, dry mm, oropharynx clear without thrush 
or leukoplakia. PERRL, 3->2 mm
NECK: supple, JVP not elevated, no significant cervical LAD
LUNGS: Coarse rales in bases bilaterally, no wheezing or 
rhonchi.
CV: Tachycardic, regular rhythm, normal S1 S2, no murmurs or 
rubs  
ABD: soft, mildly TTP, worst in LLQ, no rebound tenderness or 
guarding, BS+, negative ___ sign
EXT: Warm, well perfused, 1+ DPs, no rash
NEURO: CNII-XII intact, ___ upper and lower extremity strength, 
intact to sensation in UE and ___, 2+ patellar reflexes, F2N wnl, 
gait deferred

Discharge exam:
Unable to perform as patient eloped
 
Pertinent Results:
ADMISSION LABS:
=========================
___ 04:20PM BLOOD WBC-3.9* RBC-4.55* Hgb-12.5* Hct-37.2* 
MCV-82 MCH-27.5 MCHC-33.6 RDW-13.3 RDWSD-39.8 Plt Ct-51*#
___ 04:20PM BLOOD Neuts-78.9* Lymphs-13.8* Monos-6.2 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-3.04 AbsLymp-0.53* 
AbsMono-0.24 AbsEos-0.00* AbsBaso-0.01
___ 04:20PM BLOOD Glucose-114* UreaN-20 Creat-1.2 Na-127* 
K-4.0 Cl-92* HCO3-25 AnGap-14
___ 04:20PM BLOOD ALT-16 AST-24 AlkPhos-66 TotBili-0.8
___ 04:20PM BLOOD Lipase-14
___ 04:32AM BLOOD Calcium-7.2* Phos-3.1 Mg-1.5*
___ 04:27PM BLOOD Lactate-1.1
___ 06:50PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 06:50PM URINE RBC-4* WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0 TransE-<1

MICROBIOLOGY:
===========================

   URINE CULTURE (Final ___:    NO GROWTH. 
___ 04:40AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 
   RAPID PLASMA REAGIN TEST (Final ___: 
      REACTIVE. 
      Reference Range: Non-Reactive. 

   QUANTITATIVE RPR (Final ___: 
      REACTIVE AT A TITER OF 1:128. 
      Reference Range: Non-Reactive. 

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

BLOOD cx pending*****
Toxoplasma pending******
C. Diff: negative
Lyme serologies: pending

IMAGING:
============================
-ECG (___): Sinus tachycardia. There are tiny R waves in the 
anterior leads consistent with possible myocardial infarction. 
Compared to the previous tracing  of ___ the rate is faster 
and evidence of possible myocardial infarction is new. 
-CXR (___): IMPRESSION: No acute cardiopulmonary 
abnormality. 
-CT abd/pelvis (___):
IMPRESSION:   
1. Mild central intrahepatic biliary dilatation and mild 
dilatation of the common bile duct which tapers to level of the 
ampulla.  Correlation with liver function tests is recommended.  
If there is any clinical concern for biliary obstruction, an 
MRCP could be obtained for further evaluation. 
2. Mild splenomegaly. 
3. No evidence for intra-abdominal abscess. 
RECOMMENDATION(S):  If there is any clinical concern for biliary 
obstruction, an MRCP could be obtained for further evaluation. 
-TTE (___): FOCUSED STUDY/LIMITED VIEWS: The left atrium is 
elongated. Left ventricular wall thickness, cavity size, and 
global systolic function are normal (LVEF>55%). Right 
ventricular chamber size and free wall motion are normal. The 
aortic root is mildly dilated at the sinus level. The ascending 
aorta is mildly dilated. The aortic valve leaflets (3) are 
mildly thickened. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. No mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion.  
-CT Head w/o contrast (___): IMPRESSION: No evidence for 
acute intracranial abnormalities. 
-CT Head w/contrast (___): IMPRESSION: 
1. No evidence of mass lesion on this contrast enhanced study.  
No evidence of fracture or infarction. IMPRESSION: 1. No acute 
intracranial process. 
-CXR (___): IMPRESSION: Compared to prior chest radiographs 
since ___ most recently ___. Lungs are clear. 
Cardiomediastinal and hilar silhouettes and pleural surfaces are 
normal. 
  

MICRO:
==============================
___ 5:52 am BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 12:57 am BLOOD CULTURE      Source: Venipuncture. 

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 5:58 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      CANCELLED. 
         Three separate stool specimens collected EVERY OTHER 
DAY are
         recommended for optimum sensitivity. Duplicate 
specimens collected
         on the same day will not be processed, since this does 
not
         increase diagnostic yield. Make sure to label date and 
time of
         collection on each stool specimen submitted to ensure 
appropriate
         processing. 
__________________________________________________________
___ 5:58 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      CANCELLED. 
         Three separate stool specimens collected EVERY OTHER 
DAY are
         recommended for optimum sensitivity. Duplicate 
specimens collected
         on the same day will not be processed, since this does 
not
         increase diagnostic yield. Make sure to label date and 
time of
         collection on each stool specimen submitted to ensure 
appropriate
         processing. 
__________________________________________________________
___ 4:00 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 
      ___ ADDED ON PER FAX ___ 16:19 
(___). 

   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   MICROSPORIDIA STAIN (Preliminary): 

   FECAL CULTURE (Preliminary): 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 
__________________________________________________________
___ 4:00 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
__________________________________________________________
___ 4:00 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 12:15 pm SEROLOGY/BLOOD      Source: Venipuncture. 

   LYME SEROLOGY (Pending): 
__________________________________________________________
___ 5:55 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   ACID FAST CULTURE (Pending): 
__________________________________________________________
___ 6:00 pm BLOOD CULTURE ( MYCO/F LYTIC BOTTLE)
      Source: Venipuncture. 

   BLOOD/FUNGAL CULTURE (Pending): 

   BLOOD/AFB CULTURE (Pending): 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 8:15 am
      SEROLOGY/BLOOD      TAKEN FROM TUBE # ___. 

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 
__________________________________________________________
___ 4:32 am Blood (Toxo)      CHEM # ___ ___. 

                            **FINAL REPORT ___

   TOXOPLASMA IgG ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgG ANTIBODY BY EIA. 
      0.0 IU/ML. 
      Reference Range:  Negative < 4 IU/ml, Positive >= 8 IU/ml. 


   TOXOPLASMA IgM ANTIBODY (Final ___: 
      NEGATIVE FOR TOXOPLASMA IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
__________________________________________________________
___ 4:32 am IMMUNOLOGY      Source: Venipuncture. 

                            **FINAL REPORT ___

   HIV-1 Viral Load/Ultrasensitive (Final ___: 
      130,000 copies/ml. 
      Performed using the Cobas Ampliprep / Cobas Taqman HIV-1 
Test v2.0. 
      Detection Range: ___ copies/mL. 
      This test is approved for monitoring HIV-1 viral load in 
known
      HIV-positive patients. It is not approved for diagnosis of 
acute HIV
      infection. 
      In symptomatic acute HIV infection (acute retroviral 
syndrome), the
      viral load is usually very high (>>1000 copies/mL). If 
acute HIV
      infection is clinically suspected and there is a 
detectable but low
      viral load, please contact the laboratory for 
interpretation. 
      It is recommended that any NEW positive HIV-1 viral load 
result, in
      the absence of positive serology, be confirmed by 
submitting a new
      sample FOR HIV-1 PCR, in addition to serological testing. 
__________________________________________________________
___ 4:32 am IMMUNOLOGY      Source: Venipuncture. 

                            **FINAL REPORT ___

   HCV VIRAL LOAD (Final ___: 
      HCV-RNA NOT DETECTED. 
      Performed using Cobas Ampliprep / Cobas Taqman HCV v2.0 
Test. 
      Linear range of quantification: 1.50E+01 IU/mL - 1.00E+08 
IU/mL. 
      Limit of detection: 1.50E+01 IU/mL. 
__________________________________________________________
___ 4:32 am Immunology (CMV)      Source: Venipuncture. 

                            **FINAL REPORT ___

   CMV Viral Load (Final ___: 
      CMV DNA not detected. 
      Performed by Cobas Ampliprep / Cobas Taqman CMV Test. 
      Linear range of quantification: 137 IU/mL - 9,100,000 
IU/mL. 
      Limit of detection 91 IU/mL. 
      This test has been verified for use in the ___ patient 
population. 
__________________________________________________________
___ 4:32 am SEROLOGY/BLOOD      Source: Venipuncture. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      REACTIVE. 
      Reference Range: Non-Reactive. 

   QUANTITATIVE RPR (Final ___: 
      REACTIVE AT A TITER OF 1:128. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 4:32 am SEROLOGY/BLOOD      Source: Venipuncture. 

                            **FINAL REPORT ___

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 
           (Reference Range-Negative). 
      Test performed by Lateral Flow Assay. 
      A negative serum does not rule out localized or 
disseminated
      cryptococcal infection. 
      Appropriate specimens should be sent for culture. 
__________________________________________________________
___ 6:50 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:39 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:20 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
 

DISCHARGE LABS:
=====================
___ 05:30AM BLOOD WBC-2.1* RBC-3.58* Hgb-9.8* Hct-28.4* 
MCV-79* MCH-27.4 MCHC-34.5 RDW-13.6 RDWSD-39.1 Plt Ct-14*
___ 05:30AM BLOOD ___ PTT-31.1 ___
___ 05:30AM BLOOD Glucose-115* UreaN-12 Creat-0.7 Na-128* 
K-3.7 Cl-98 HCO3-20* AnGap-14
___ 05:30AM BLOOD ALT-33 AST-85* AlkPhos-190* TotBili-0.8
___ 05:30AM BLOOD Albumin-2.8* Calcium-7.1* Phos-1.1* 
Mg-1.___ M PMHx HIV (genotype IB, CD4 14) c/b neurosyphilis/ocular 
syphilis, disseminated VZV, and medication non-compliance who 
presented to PCP ___ ___ abdominal pain and fatigue 
admitted to the MICU ___ altered mental status and fevers 
concerning for MAC vs neurosyphilis. Patient eloped from the 
hospital on ___ after verbalizing understanding of the risks 
associated with leaving including worsening infection and death.

# Elopement: on the morning of ___, patient eloped from the 
hospital. Patient verbalized understanding of risks/benefits 
associated with leaving, including risk of worsening infection 
and death. He received counseling and prescriptions for his 
medications including his HAART medications and antibiotics. He 
left before getting IM PCN or discharge paperwork. A message was 
left for his roommate/HCP. He and his roommate were encouraged 
to come back to the ED with any concerns. An appointment was 
scheduled for patient with his PCP.

MICU COURSE:
===================================
#Sepsis: Patient presented with WBC < 4, Tm 103 in the ED, 
tachycardia in 130s concerning for sepsis. No elevated lactate 
to suggest severe sepsis. The etiology is suspected to be MAC, 
mycotic blood cultures pending on elopement. The differential 
for his infectious etiology is generally broad, given recent CD4 
count <100 with HIV VL >14K in ___. CT A/P is without 
evidence of intra-abdominal infection, unremarkable for abscess 
or colitis; while there was suggestion of CBD and intrahepatic 
biliary dilatation, LFTs wnl do not support biliary etiology of 
sepsis. CXR is without evidence of pneumonia although given 
vague complaints of SOB and low CD4, MAC is suspected. CT head 
negative for obvious abscess or ring-enhancing lesion. LP was 
initially deferred given thrombocytopenia with plt in ___ and 
exam reassuring for no evidence of meningismus. However, the 
decision was made with ID input that patient should undergo LP 
to r/o CSF infection; however, patient adamantly declined and so 
LP not performed. Given this, he underwent CT head with contrast 
which did not show any concerning findings for infection, no 
ring-enhancing lesions or abscess noted. Flu negative, monospot 
negative, CMV negative, blood cx pending. In the ED, he 
initially received vanc, Zosyn, ceftriaxone, acyclovir, and 
fluconazole, which was narrowed to ceftriaxone in conjunction 
with ID. Ultimately, suspicion was highest for MAC, and so 
patient was placed on azithromcyin and Ethambutol for ? 
disseminated MAC. Acyclovir IV was discontinued given low 
suspicion for HSV encephalitis.

#Abdominal pain: unclear etiology although infection was 
initially suspected given fevers. Given localization to LLQ on 
exam, would be concerned about reactive lymphadenopathy although 
no significant LAD seen on CT abd/pelvis. CT abd/pelvis does 
show intrahepatic biliary dilatation and mild dilatation of the 
common bile duct although LFTs do not suggest biliary pathology 
as discussed above. Patient does have a history of H. pylori 
which has been responsive to PPI and triple therapy per report. 
CMV esophagitis vs colitis is possible although no significant 
diarrhea. CMV viral load was negative. He was continued on 
ceftriaxone as above. Stool cultures were pending at discharge. 

#Thrombocytopenia: pt presented with plt 51 from prior plt >150. 
Unclear etiology although suspected secondary to infection. 
Medication effect (e.g. Bactrim) less likely given patient not 
taking any medications as an outpatient. Consumption is possible 
in setting of acute infection. Pt does have mild splenomegaly on 
CT abd/pelvis making sequestration possible explanation. DIC 
less likely given normal coags. Prior records from ___ reveal 
prior plt 175. Most likely in the setting of disseminated MAC 
infection, sepsis. Per ID, would consider heme-onc consult if 
thrombocytopenia continues to worsen. Platelet count was 14 on 
elopement
 
#HIV with AIDS: Previously on Trizivir, followed by TDF/Combivir 
(___) took Truvada/Reyataz/r switched to Darunavir/r, Truvada. 
Patient has not been taking his home medications for unclear 
reasons; he states that he has "unstable housing" as the reason 
for non-compliance, although currently domiciled. HIV VL this 
admission was ___ with CD4 count 14. He was followed by ID and 
HAART was resumed with truvada and dolutegravir. He was 
initiated on fluconazole/atovaquone/acyclovir ppx.

#Neurosyphilis: Patient has a history of neurosyphillis and is 
s/p treatment with IV PCN x3, most recently in ___ and weekly 
IM PCN ___. Last seen by ___ ID ___ when suspicion was 
high for recurrent neurosyphilis based on visual symptoms and 
RPR titers. He was recommended for PICC placement and repeat PCN 
course. However, pt declined PICC for IV PCN and so received IM 
with probenecid. RPR this admission was elevated at 1:128 and ID 
recommended continuing ceftriaxone (initiated empirically as 
above for sepsis) and patient was planned to go home on 
penicillin via PICC. However, patient eloped before PICC was 
placed and he refused IM PCN prior to leaving. 

#Hyponatremia: Patient presented with Na+ 127 on admission. This 
was felt to be likely hypovolemic in the setting of sepsis and 
poor po intake. Na+ improved with IVF. However, Ulytes and osm 
were consistent with SIADH, and bedside U/S showed adequate 
volume resuscitation with given IVC. Given improvement in HD 
status, the patient was placed on 750cc fluid restriction and 
salt tabs. Na improved to 128 upon transfer to the floor. Na on 
elopement of 128.

#Major depressive disorder: patient previously on sertraline, 
paroxetine but has not been taking recently. These were not 
re-initiated this hospital course but should consider resuming 
as outpatient.

#Medication non-compliance: patient has a history of medical 
non-compliance, which has limited his treatment for HIV/AIDS. As 
described above, he states his housing difficulty as the reason 
for his non-compliance, although it appears he has fairly stable 
housing per pt's roommate. Patient was provided with 
prescription for his antibiotics and HAART medications on 
morning of elopement. He did not receive IM PCN. 

TRANSITIONAL ISSUES:
[] Patient eloped in AM of ___ he will need ongoing 
infectious work-up, evaluation of thrombocytopenia, and 
monitoring of his HAART compliance 
# Communication: ___ (roommate) ___  
# Code: Full, confirmed 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. PARoxetine 40 mg PO DAILY 
2. Sertraline 50 mg PO DAILY 
3. ClonazePAM 0.5 mg PO BID:PRN anxiety 
4. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN sob 
5. Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation DAILY 
6. Dapsone 100 mg PO DAILY 
7. Temazepam 15 mg PO QHS:PRN insomnia 
8. Multivitamins 1 TAB PO DAILY 
9. RiTONAvir 100 mg PO DAILY 
10. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
11. Atovaquone Suspension 750 mg PO BID 
12. Cetirizine 10 mg PO DAILY 
13. Darunavir 800 mg PO DAILY 

 
Discharge Medications:
1. Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 1500 mg by mouth daily Refills:*0
2. Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*3
3. Dolutegravir 50 mg PO DAILY 
RX *dolutegravir [Tivicay] 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*6
4. Ethambutol HCl 1000 mg PO DAILY 
RX *ethambutol 100 mg 10 tablet(s) by mouth daily Disp #*140 
Tablet Refills:*0
5. Fluconazole 200 mg PO Q24H 
RX *fluconazole 200 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6
6. Cetirizine 10 mg PO DAILY 
7. ClonazePAM 0.5 mg PO BID:PRN anxiety 
8. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
RX *emtricitabine-tenofovir [Truvada] 200 mg-300 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*6
9. Multivitamins 1 TAB PO DAILY 
10. PARoxetine 40 mg PO DAILY 
11. ProAir HFA (albuterol sulfate) 90 mcg/actuation inhalation 
Q4H:PRN sob 
12. Qvar (beclomethasone dipropionate) 40 mcg/actuation 
inhalation DAILY 
13. Sertraline 50 mg PO DAILY 
14. Temazepam 15 mg PO QHS:PRN insomnia 
15. Azithromycin 600 mg PO Q24H 
RX *azithromycin 600 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*6

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
-HIV
-Sepsis
-Disseminated MAC
-Neurosyphilis
-Thrombocytopenia
-Hyponatremia

SECONDARY DIAGNOSES:
-Medication non-compliance
-Major depressive disorder
 
Discharge Condition:
Eloped
 
Discharge Instructions:
Unable to provide
 
Followup Instructions:
___